Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Pericardiocentesis ___

 
History of Present Illness:
Ms. ___ is an ___ year old woman with a hx of HTN, HLD, 
Grave's disease, discoid lupus (in remission x ___ years) who 
presents with pericardial effusion causing tamponade physiology 
now s/p pericardiocentesis. She was in her usual state of health 
until 3 weeks ago when she experienced 2 days of fever/chills, 
feeling generally unwell after getting a flu shot. She felt 
better on the third day and was doing well until this weekend 
when she experienced similar symptoms, which she took Tylenol 
for. She was also experiencing intermittent palpitations and 
worsening shortness of breath but no chest pain. She expected 
her symptoms to resolve but they did not so she presented to her 
PCP office on ___ and they told her to seek evaluation at 
___ on ___. 

In the ___ she was found to be tachycardic with an irregular 
rhythm, although there was some uncertainty whether this was 
sinus with ectopy vs afib. SBPs were initially 130s-140s. CXR 
showed large cardiac sillhouette and small ___ effusions. CT 
obtained to r/o PE showed 2.2-2.7 cm pericardial effusion. 
Pulsus pardoxus was measured by ___ at 15. Dr ___ 
thoracic surgery was consulted in the ___ and did not feel that 
the patient required emergent pericardiocentesis. The patient 
stayed in the ___ overnight as no tertiary care beds were 
available. O/n the patient received 5 mg IV lopressor her HRs 
trended down slightly and her dyspnea improved somewhat. Stable 
this am on RA.  Bedside ECHO done with 2.1 cm effusion with some 
fibrin noted, EF 70%, PASP 36, some collapse of RA/RV and resp 
variation across the TV.

She was transferred to ___ and underwent successful 
pericardiocentesis with 230cc of fluid drained, pericardial 
drain placed and then transferred to the CCU for further 
management.

On arrival to the CCU, patient states that she is feeling much 
better than before but is having some soreness at the site of 
the drain placement. Otherwise she denies chest pain, current 
shortness of breath, fever, chills, nausea, vomiting, diarrhea, 
leg swelling, dysuria.

REVIEW OF SYSTEMS:  
Positive per HPI.  

On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.
 
Past Medical History:
HTN
HLD
Grave's disease - s/p treatment ___ years ago
Discoid lupus - 20+ years ago, no problems since 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
Both of her parents died of strokes in their ___.
History of Grave's disease in her sisters and one daughter.
History of lupus in her sister.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: BP 111/63 HR 112 RR 29 O2 SAT 97% on 2L NC  
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple.
CARDIAC/CHEST: Tachycardic. Normal S1, S2. No murmurs, rubs, or 
gallops.  There is a pericardial drain inserting just below the 
sternum in place with a few mls of serosanguinous fluid 
collecting.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM
========================
VS: Tm 98.4 BP 139-141/74-77 HR 104-112 RR ___ O2 SAT 91-94% 
on RA-1.5L NC, Ambulatory O2Sat 92% on RA 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple.
CARDIAC/CHEST: Tachycardic. Normal S1, S2. No murmurs, rubs, or 
gallops.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
ADMISSION LABS
==================
Chemistry            
  Magnesium (1.6 - 2.6 mg/dL)            2.1
  TSH ___ Generation (0.27 - 4.20 uIU/mL)            1.10
Hematology            
  ESR   Pending         
Immunology            
  Rheumatoid Factor         Pending   
  ___            Pending
Serology            
  ___ Type B(1) Ab            Pending
  ___ Type B(2) Ab            Pending
  ___ Type B(3) Ab            Pending
  ___ Type B(4) Ab            Pending
  ___ Type B(5) Ab            Pending
  ___ Type B(6) Ab            Pending
  EBV Capsid Ag IgG Ab            Pending
  EBV Capsid Ag IgM Ab            Pending
  HIV 1&2 Antigen & Ab         Pending   
  VZV IgG Antibody (Index)      Pending      
  VZV IgM Antibody            Pending

Chemistry         
  Sodium (136 - 145 mmol/L)         133
  Potassium (3.5 - 5.1 mmol/L)         4.7
  Chloride (98 - 107 mmol/L)         93
  Carbon Dioxide (22 - 29 mmol/L)         25
  Anion Gap (6 - 18 mmol/L)         15
  BUN (8 - 23 mg/dL)         25
  Creatinine (0.5 - 0.9 mg/dL)         1.2
  Glucose (74 - 109 mg/dL)         145
  Calcium (8.8 - 10.2 mg/dL)         9.5
  Magnesium (1.6 - 2.6 mg/dL)         2.4
  Troponin T (0.0 - 0.01 ng/mL)   < 0.01   < 0.01   
Coagulation         
  ___ (10.6 - 13.4 SECONDS)         12.4
  INR         1.03
  PTT (23.5 - 35.5 SECONDS)         29.8
  D-Dimer (0 - 230 NG/ML)         462.8
Hematology         
  WBC (4.5 - 10.5 X10*3/ul)         10.7
  RBC (4.00 - 5.00 X10*6/ul)         4.17
  Hgb (11.8 - 15.8 g/dL)         12.8
  Hct (35.0 - 45.0 %)         37.6
  MCV (80.0 - 100.0 fL)         90.0
  MCH (27.0 - 34.0 pg)         30.6
  MCHC (32.0 - 36.0 g/dL)         34.0
  RDW (12.5 - 15.5 %)         14.0
  Plt Count (150 - 400 X10*3/ul)         238
  MPV (7.0 - 10.5 fl)         9.6
  Neutrophils % (Manual) (44 - 74 %)         85

  Lymphocytes % (16 - 46 %)         7
  Monocytes % (5 - 12 %)         8
  Eosinophils % (0 - 8 %)         0
  Basophils % (0 - 2 %)         0

STUDIES: 
===================
CTPA ___
IMPRESSION:
1. New pericardial effusion.
2. New left pleural effusion and tiny right pleural effusion.
3. New bilateral lower lobe atelectasis.
4. No change in subtle left upper lobe parenchymal infiltrate.
5. Old right rib fractures.

+ TTE ___: Per report  ECHO done with 2.1 cm effusion with 
some fibrin noted, EF 70%, PASP 36, some collapse of RA/RV and 
resp variation across the TV.

TTE ___:
Conclusions   
 Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. There is a very 
small circumferential pericardial effusion. The effusion is echo 
dense anteriorly, consistent with blood, inflammation or other 
cellular elements. Neither tamponade physiology or constriction 
are suggested, though transmitral/transtricuspid flows could not 
be assessed due to the tachycardia. Small right pleural 
effusion.

 IMPRESSION: Very small circumferential pericardial effusion 
without definite evidence for tamponade or constrictive 
physiology.   

CXR ___:
Comparison to ___.  Removal of the pulmonary artery 
catheter.  
Stable mild left pleural effusion with subsequent retrocardiac 
atelectasis.  
Stable appearance of the lung parenchyma.  No pulmonary edema.  
No pneumonia. 

DISCHARGE LABS
================
___ 07:50AM BLOOD WBC-5.2 RBC-3.56* Hgb-10.7* Hct-33.8* 
MCV-95 MCH-30.1 MCHC-31.7* RDW-13.2 RDWSD-46.2 Plt ___
___ 07:50AM BLOOD Glucose-99 UreaN-11 Creat-0.6 Na-141 
K-4.1 Cl-104 HCO3-26 AnGap-15
___ 05:00AM BLOOD ALT-18 AST-24 LD(LDH)-192 AlkPhos-98 
TotBili-0.6
___ 07:50AM BLOOD Mg-2.0
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with a hx of HTN, HLD, 
Grave's disease, discoid lupus (in remission x ___ years) who 
presented with pericardial effusion causing tamponade physiology 
now s/p successful pericardiocentesis with persistent mild sinus 
tachycardia thought secondary to pericardial inflammation. Her 
home losartan was held in the setting of low blood pressure but 
was normotensive at the time of discharge, this should be held 
until recheck at PCP follow up.

#Pericardial effusion now s/p pericardiocentesis - Etiology of 
effusion unclear at this point, multiple studies pending from ___ 
___ as well as ___ at time of discharge. DDx included 
post-viral, which seemed most likely given recent viral symptoms 
but could also be related to other infectious etiologies vs. 
rheumatologic process vs. thyroid dysfunction (although TSH nl) 
given history vs. malignancy. Patient was placed on NC O2 for 
comfort but ambulated with SPO2 92% at discharge.

#Sinus tachycardia - persistent after pericardiocentesis, likely 
due to residual pericardial fluid vs. potentially hypovolemia, 
no other clear signs of infection prior to discharge, improved 
with 500cc of normal saline, but was still persistent at 
discharge.

#Hyponatremia, resolved - mild hyponatremia to 133 at ___ 
___, resolved prior to discharge

#Acute kidney injury, resolved - Cr up to 1.2 at ___ from 
baseline of 1.0, was thought to be pre-renal in the setting of 
near-tamponade and resolved prior to discharge with discharge Cr 
0.6.

#HTN - Held losartan 20mg QD given soft pressures

#HLD -Continued atorvastatin 20mg QHS

TRANSITIONAL ISSUES
====================
-Please order transthoracic echo to follow up pericardial 
effusion within 1 week of discharge.
-Follow up RF, ___, EBV, VZV, HIV, ___, ESR from ___.
-Follow up pending pericardial fluid studies.
-Losartan was held at discharge given normotension. Please 
restart at followup if indicated.
# CODE: Full code
# CONTACT/HCP: ___ (______ 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 20 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D Dose is Unknown  PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Vitamin D 800 UNIT PO DAILY  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Multivitamins 1 TAB PO DAILY  
6. HELD- Losartan Potassium 20 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until discussing with 
your doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Pericardial effusion
Sinus tachycardia
Hyponatremia
Acute kidney injury

SECONDARY DIAGNOSIS
====================
Hypertension
Hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were experiencing 
palpitations and shortness of breath. You were found to have 
fluid built up around your heart (pericardial effusion), which 
was drained. You were monitored afterwards and did not have 
fluid build up again. You felt much better after the fluid was 
drained and we felt it was safe for you to leave the hospital.

Please continue to take your medications as directed. Your 
losartan was held because your blood pressures were on the low 
side. You should discuss restarting this medication with your 
doctor. You will also have a follow up appointment with 
Cardiology as below.

Please see your doctors as directed.

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___